US08809538B2
ethyl 2-chloro-6-ethoxyisonicotinate
Methyl 2,6-dichloroisonicotinate (2.62 g) was partially dissolved in ethanol (50 mL) and a freshly prepared solution of 0.72 mol/L solution of sodium ethanolate (17.7 mL) was added at room temperature and then heated at 70° C. for 3 hours. The reaction was neutralized by the addition of 2N hydrochloric acid (6.5 mL) and then concentrated. The resulting solid was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude reaction was purified by column chromatography using an eluant of 2-4% ethyl acetate/hexane to provide the title compound (1.7 g) with the following physical data.

reactant | Methyl 2,6-dichloroisonicotinate | 2.62 g | ClC=1C=C(C(=O)OC)C=C(N1)Cl | C7H5Cl2NO2
reactant | sodium ethanolate | 17.7 mL | C(C)[O-].[Na+]
reactant | hydrochloric acid | 2N, 6.5 mL | Cl | ClH
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 2-chloro-6-ethoxyisonicotinate | 1.7 g | ClC=1C=C(C(=O)OCC)C=C(N1)OCC | C10H12ClNO3
